US06372936B1
Preparation of 3-[(tert-Butoxycarbonyl)amino]-2-methylpropionic acid
A 5.0 liter stainless steel autoclave was charged with 5% rhodium on alumina (46.08 g), BOC anhydride (151.22 g, 0.693 moles), ethyl-2-cyanopropionate (80.0 g, 0.630 moles) and THF (2.5 liters). The reaction mixture was stirred and subjected to a hydrogen pressure of 55 psia at THF reflux temperature. A proton NMR of an aliquot sample after 18 hours indicated the reaction was complete. The reaction mixture was then allowed to equilibrate to room temperature, vented and purged with nitrogen. The reaction mixture was filtered over hyflo and concentrated in vacuo to give a solution of mass 645.0 grams. To this solution was added water (0.5 liter) and KOH (70.69 g, 1.26 moles). The two-phase reaction mixture was then heated at THF reflux temperature for 18 hours to form a homogeneous solution. The solution was cooled to room temperature and the pH was adjusted to 3.0 with 85% phosphoric acid (192.0 ml). The neutralization temperature was maintained at 30° C. by controlling the rate of addition of the phosphoric acid (addition time=2.0 hours.) The organics were then extracted with t-butylmethyl ether (0.5 liter). The ether solution was dried with anhydrous MgSO4, filtered, and concentrated in vacuo to an oil which solidified to a waxy low melting solid (mass=91.6 grams, ˜72.0% wt. yield). 1H NMR (CDCl3, 300 MHz) δ1.15 (d, J=7.1 Hz, 3H), 1.4 (s, 9H), 2.6 (m, 1H), 3.2 (m, 2H), 5.09 (bs, 0.73H), 6.19 (bs, 0.27H), 9.2 (bs, 1H); 13C NMR (CDCl3, 300 MHz) δ180.55, 155.93, 79.60, 42.75, 40.08, 28.41, 14.70. IR (CHCl3) 3457, 2982, 1709, 1508, 1368, 1243, 1168 cm−1. MS{FD+} m/z (relative intensity) 204.0. Anal. Calcd. For C9H17N1O4: C, 53.19; H, 8.43; N, 6.89. Found: C, 53.14; H, 8.40; N, 6.73.

reactant | BOC anhydride | 0.693 moles, 151.22 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl-2-cyanopropionate | 0.630 moles, 80.0 g | C(C)OC(C(C)C#N)=O | C6H9NO2
reactant | hydrogen | [H][H] | H2
reactant | KOH | 1.26 moles, 70.69 g | [OH-].[K+]
reactant | phosphoric acid | 192.0 ml | P(O)(O)(O)=O | H3O4P
catalyst | rhodium on alumina | 46.08 g | [Rh] | Rh
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 0.5 liter | O | H2O
solvent | THF | 2.5 liters | C1CCOC1 | C4H8O
product | 3-[(tert-Butoxycarbonyl)amino]-2-methylpropionic acid | C(C)(C)(C)OC(=O)NCC(C(=O)O)C | C9H17NO4
